US07989449B2
4-Bromo-2-chloro-1-methoxy-benzene [50638-47-6]
A mixture of 4-bromo-2-chlorophenol (7.0 g, 33.0 mmol, 1 eq), N,N-dimethylformamide (50 mL) and cesium carbonate (8.5 g, 42.0 mmol, 1.2 eq) was stirred at room temperature then iodomethane (2.5 mL, 1.2 eq) was added. The mixture was heated to 50° C. overnight, cooled to room temperature and treated with water (500 mL). The reaction was extracted with dichloromethane, dried (sodium sulfate) and concentrated in vacuo. The crude was purified by flash chromatography eluting with cyclohexane. 7.5 g of clean product in a quantitative yield.

reactant | 4-bromo-2-chlorophenol | 33.0 mmol, 7.0 g, 1 eq | BrC1=CC(=C(C=C1)O)Cl | C6H4BrClO
reactant | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | cesium carbonate | 42.0 mmol, 8.5 g, 1.2 eq | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 2.5 mL, 1.2 eq | IC | CH3I
solvent | water | 500 mL | O | H2O
product | 4-Bromo-2-chloro-1-methoxy-benzene | quantitative yield | BrC1=CC(=C(C=C1)OC)Cl | C7H6BrClO
